* C:\Users\BTarrade\Documents\repo\BeerThermoregulationSystem\BTS-LogicBoard\Simulations\Fan_triggering_system.asc
Q1 N003 N006 0 0 BC817-40
R1 N006 N001 1k
R2 N003 P001 470
D1 Vcc P001 NSSWS108T
C1 TEMPO 0 470µ
R3 0 TEMPO 390k
Q2 TEMPO N005 5V 0 BC807-40
R4 N005 N003 1k
V1 Vcc 0 12
V2 5V 0 5
Q3 0 N001 RESET_LINE 0 BC807-40
R5 N001 PUMP_SPY_LINE 1k
R6 0 N001 56k
V3 PUMP_SPY_LINE 0 PULSE(0 12 0 5u 0 100 1 1)
R7 RESET_LINE Vcc 1k
C2 N001 0 100n
R8 N004 5V 10k
R9 0 N004 10k
XU1 N004 TEMPO 5V 0 NOT_FAN_TRIGGER LTC6752
M1 N002 FAN_MOSDRIVE 0 0 BSB012N03LX3
R13 Vcc N002 20
R12 P002 NOT_FAN_TRIGGER 1k
Q4 FAN_MOSDRIVE P002 0 0 BC817-40
R11 FAN_MOSDRIVE Vcc 1k
Q5 N001 N007 0 0 BC817-40
R10 N007 HIP_DISABLE 1k
R14 0 N007 56k
V4 HIP_DISABLE 0 PULSE(0 5 25 5u 0 50 1 1)
R15 0 N006 56k
.model D D
.lib C:\Users\BTarrade\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\BTarrade\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\BTarrade\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 300 0
* |     C    (µFarads)  |       R  (kOhms)     |   Fall time (s) |\n|              470       |           220            |        71          |\n|              470       |           330            |        106        |\n|              470       |           390            |        125        |
.lib LTC7.lib
.backanno
.end
