* Z:\home\groben\Documents\Repos\Beer_Thermoregulation_System\BTS-LogicBoard\Simulations\NE555_PWM.asc
XU1 0 SAW N001 N006 N007 SAW NE-Out Vcc NE555
V1 Vcc 0 12
C1 N007 0 10n
C2 SAW 0 10p
R1 N004 SAW 9.9k
R2 SAW N005 100
D1 N001 N004 1N4148
D2 N005 N001 1N4148
J1 Fet-out P001 N003 2N5432
R4 5V Fet-out 20
R5 N003 0 10
C4 N003 0 10n
R10 5V npn-out 5k
C3 N012 N011 22n
R9 5V N012 20k
C5 P001 N002 10p
R7 N014 0 220
Q1 npn-out N012 N014 0 BC817-40
C6 N014 0 10p
R6 N011 NE-Out 1k
R8 N012 0 2k
R11 0 N011 100
V2 5V 0 5
R12 N002 NE-Out 1k
R13 0 N002 200
R14 N013 5V 10k
R15 0 N013 10k
XU2 NE-Out N013 5V 0 COMP-Out LTC6752
Q2 0 N009 N006 0 BC807-40
R18 N009 N008 56k
R19 0 N009 1k
V3 N008 0 PULSE(0 12 0 5u 0 1 2 1)
R16 N006 Vcc 56k
C7 N009 0 100n
Q3 P002 N010 0 0 BC817-40
R20 N006 N010 1k
R21 P003 P002 470
D3 Vcc P003 NSSWS108T
R3 Vcc NE-Out 470
D4 0 NE-Out 1N750
.model D D
.lib C:\users\groben\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\groben\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\users\groben\Documents\LTspiceXVII\lib\cmp\standard.jft
.tran 0 1m 1n 1u
.lib LTC7.lib
.lib NE555.sub
.backanno
.end
